US04356315
Preparation of tolylstearic acid:
Concentrated sulfuric acid (1470 gms; 15 moles) were charged to a glass reactor equipped with a condenser, mechanical stirrer, thermometer, and addition funnel and cooled to about 5° C. Toluene (1380 gms; 15 moles) was then added over a two hour period while maintaining the temperature below 10° C. When the addition of toluene was complete, 831 gms (3 moles) oleic acid was incrementally added over a period of two hours. The reaction mixture was maintained below 10° C. for 1/2 hour and then allowed to rise to room temperature with continued stirring for 2 hours. Tolylstearic acid (1118.6 gms; 86.1% crude yield; acid value 154) was recovered and vacuum distilled.

reactant | sulfuric acid | 15 moles, 1470 gms | S(O)(O)(=O)=O | H2O4S
reactant | oleic acid | 3 moles, 831 gms | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | Toluene | 15 moles, 1380 gms | C1(=CC=CC=C1)C | C7H8
product | tolylstearic acid | C1(=C(C=CC=C1)C(C(=O)O)CCCCCCCCCCCCCCCC)C | C25H42O2
